US07491829B2
Step 4: Preparation of 3-bromo-2-(pyridin-4-yl)pyrazolo[1.5-a]pyrimidine:
To 2-(pyridin-4-yl)pyrazolo[1.5-a]pyrimidine (0.30 g) in 15 mL chloroform was added dropwise a solution of 86 μL bromine in 1 mL chloroform. After 1.5 hours. at ambient temperature, the mixture was diluted with dichloromethane, washed with 10% aqueous potassium carbonate, dried over sodium sulfate, filtered, and evaporated to afford 386 mg (92% yield) product as a tan solid. MS showed a M+1 molecular ion of m/z 277.4 by positive APCI.

reactant | 2-(pyridin-4-yl)pyrazolo[1.5-a]pyrimidine | 0.30 g | N1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1 | C11H8N4
reactant | bromine | 86 μL | BrBr | Br2
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 1 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-bromo-2-(pyridin-4-yl)pyrazolo[1.5-a]pyrimidine | 386 mg, 92% yield | BrC=1C(=NN2C1N=CC=C2)C2=CC=NC=C2 | C11H7BrN4
